US05091475
Preparation of Proylene Carbonate/Hydrazine Hydrate Adduct
A mixture of 67.5 g of hydrazine hydrate (1.35 moles), 60 g of toluene and 290 g of propylene carbonate (2.8 moles) was heated to 90° C. for 2 hours. The water in the system was removed by azeotropic distillation with toluene under reduced pressure (water aspirator). The excess propylene carbonate (108 g) was removed by vacuum distillation to afford a mixture of the 1:1 and 2:1 propylene carbonate/hydrazine adducts. By calculation the product was present in an approximately 70/30 ratio on a molar basis and an approximately 55/45 ratio on a weight basis of the 1:1 and 2:1 adducts.

reactant | hydrazine hydrate | 1.35 moles, 67.5 g | O.NN
reactant | propylene carbonate | 2.8 moles, 290 g | C1(OCC(C)O1)=O | C4H6O3
reactant | propylene carbonate hydrazine | C1(OCC(C)O1)=O.NN
solvent | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
product | Proylene Carbonate Hydrazine Hydrate | C1(OCC(C)O1)=O.O.NN | InChI=1S/C4H6O3.H4N2.H2O/c1-3-2-6-4(5)7-3;1-2;/h3H,2H2,1H3;1-2H2;1H2
